US08580785B2
f) Preparation of 6-amino-7-chloro-1-methyl-1H-benzoimidazole-5-carboxylic acid
See step d) of example H2 using 6-amino-7-chloro-1-methyl-1H-benzoimidazole-5-carboxylic acid methyl ester as starting material and 1.5 equivalents of NaOH (1 N aqueous solution). After 5 h of stirring at ambient temperature and for 18 hours reaction at a temperature of 50° C., the solvents is evaporated and the work-up is made as already described. A total amount of 614 mg (2.72 mmol, 87%) of a pink-red solid were obtained. LC/MS: 226/228 (M+1)+.

reactant | 6-amino-7-chloro-1-methyl-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N(C=N2)C)C(=C1N)Cl | C10H10ClN3O2
reactant | NaOH | 1 N, 1.5 equivalents | [OH-].[Na+]
product | 6-amino-7-chloro-1-methyl-1H-benzoimidazole-5-carboxylic acid | 2.72 mmol, 614 mg, 87% | NC=1C(=CC2=C(N(C=N2)C)C1Cl)C(=O)O | C9H8ClN3O2
